* D:\KiCAD 6.0\KiCad6.0 PROJECTS\electrolysisMachine\voltage-controlled-current-sink\voltage-controlled-current-source.asc
XU1 N005 N002 Vsupply 0 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 Vsupply 0 27
V2 Vcontrol 0 5
R1 N006 N002 10k
R2 N006 0 2
R3 Vsupply N001 1k
M1 N001 N004 N006 N006 NMOS
R4 N004 N003 10k
R5 N005 0 100
R6 N005 Vcontrol 100k
.model NMOS NMOS
.model PMOS PMOS
.lib G:\onedrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V2 0 5 0.1
;step param R3 list 0R 1R 10R 100R 1K 10k 100k 1000k 10000k
;op
.lib UniversalOpamps2.sub
.backanno
.end
